US05306830
To a mixture of H2SO4 (6.9 ml) and water (6.1 ml) at room temperature was added Tl2O3 (2.38 g, 5.22 mmol). The mixture was stirred for 30 min and water (37 ml) was added, thereafter the temperature was raised to 60° C. and 3-allyloxy-4-bromoanisol (2.16 g, 8.89 mmol) was added. The mixture was stirred at 60° C. for 4.5 hours. Another portion of Tl2O3 (1.0 g, 2.19 mmol) stirred for 30 min at 20° C. in H2SO4 (2.6 ml) and H2O (3 ml) was added and the reaction mixture was stirred for another 17 hours at 60° C. After cooling the mixture was extracted with chloroform. The organic layer was washed with water, dried (MgSO4) and evaporated. After chromatography (SlO2) with ether as eluant, 552 mg (24%) of 8-bromo-5-methoxy-3-chromanol was isolated. An analytic sample of the product was obtained from recrystallization in light petroleum-ether, m.p. 115°-117° C.

reactant | water | 6.1 ml | O | H2O
reactant | water | 37 ml | O | H2O
reactant | 3-allyloxy-4-bromoanisol | 8.89 mmol, 2.16 g | C(C=C)OC=1C=C(C=CC1Br)OC | C10H11BrO2
reactant | H2O | 3 ml | O | H2O
solvent | H2SO4 | 2.6 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 6.9 ml | OS(=O)(=O)O | H2O4S
product | 8-bromo-5-methoxy-3-chromanol | 552 mg, 24% | BrC=1C=CC(=C2CC(COC12)O)OC | C10H11BrO3
